US07476759B2
Benzyl (4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)acetate
t-Butyldimethylsilyl chloride (3.07 g, 20.4 mmol) was added in one portion to a stirred solution of benzyl (4-hydroxyphenyl)acetate (4.70 g, 19.4 mmol) and imidazole (1.39 g, 20.4 mmol) in dimethylformamide (25 mL) at room temperature under nitrogen. After stirring for 4 h the volatiles were evaporated and the residue partitioned between water (100 mL) and ethyl acetate (100 mL). The layers were separated and the aqueous phase washed with ethyl acetate (2×100 mL). The organic extracts were combined, dried (magnesium sulfate) and the solvent evaporated. The residue was chromatographed on silica gel (10% diethyl ether: cyclohexane) to give the title compound as a colourless oil (4.32 g, 62%). LC/MS: 4.13 min; z/e 374, calcd (M+18) 374. 1H NMR (400 MHz: CDCl3): 7.15 (5H), 6.95 (2H), 6.60 (2H), 4.95 (2H) 3.40 (2H), 0.8 (9H), 0.00 (6H).

reactant | t-Butyldimethylsilyl chloride | 20.4 mmol, 3.07 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | benzyl (4-hydroxyphenyl)acetate | 19.4 mmol, 4.70 g | OC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O3
reactant | imidazole | 20.4 mmol, 1.39 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | Benzyl (4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)acetate | 4.32 g, 62% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C21H28O3Si
